US09238644B2
(a) tert-Butyl 3-(4-(4-(2-(1-carbamoylcyclopropyl)phenethyl)-5-chloropyrimidin-2-ylamino)-1H-pyrazol-1-yl)pyrrolidine-1-carboxylate (A21)
A stirred solution of 1-(2-(2-(2,5-dichloropyrimidin-4-yl)ethyl)phenyl)cyclopropanecarboxamide A14 (0.150 g, 0.446 mmol), 4-amino-1-(1-Boc-pyrrolidin-3-yl)-1H-pyrazole (0.225 g, 0.892 mmol) in MeOH (10 mL) and water (1.0 mL) was heated at 70° C. for 2 days. Additional 4-amino-1-(1-boc-pyrrolidin-3-yl)-1H-pyrazole (0.125 g, 0.446 mmol) was added and the mixture was heated for a further 16 hours at reflux. After cooling the solvent was removed to afford a crude red oil which was purified by silica gel column chromatography (0-100% EtOAc in cyclohexane) to give the title compound A21 as a red oil (0.164 g, 67% yield). LCMS-C: rt 5.51 min; m/z 551.9 [M+H]+.

reactant | 1-(2-(2-(2,5-dichloropyrimidin-4-yl)ethyl)phenyl)cyclopropanecarboxamide | ClC1=NC=C(C(=N1)CCC1=C(C=CC=C1)C1(CC1)C(=O)N)Cl | C16H15Cl2N3O
reactant | 4-amino-1-(1-Boc-pyrrolidin-3-yl)-1H-pyrazole | 0.892 mmol, 0.225 g | NC=1C=NN(C1)C1CN(CC1)C(=O)OC(C)(C)C | C12H20N4O2
reactant | 4-amino-1-(1-boc-pyrrolidin-3-yl)-1H-pyrazole | 0.446 mmol, 0.125 g | NC=1C=NN(C1)C1CN(CC1)C(=O)OC(C)(C)C | C12H20N4O2
solvent | MeOH | 10 mL | CO | CH4O
solvent | water | 1.0 mL | O | H2O
product | tert-Butyl 3-(4-(4-(2-(1-carbamoylcyclopropyl)phenethyl)-5-chloropyrimidin-2-ylamino)-1H-pyrazol-1-yl)pyrrolidine-1-carboxylate | C(N)(=O)C1(CC1)C1=C(CCC2=NC(=NC=C2Cl)NC=2C=NN(C2)C2CN(CC2)C(=O)OC(C)(C)C)C=CC=C1 | C28H34ClN7O3
